US09120777B2
D) Methyl 5-bromo-6-(4-fluorophenyl)-2-isopropoxynicotinate
An 8 M aqueous potassium hydroxide solution (22.1 mL) was added to a mixture of 5-bromo-6-(4-fluorophenyl)-2-isopropoxynicotinonitrile (5.92 g) and ethanol (50 mL), and the resultant mixture was stirred overnight at 100 C. The reaction mixture was neutralized with 6 M hydrochloric acid at 0 C, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. Potassium carbonate (4.88 g) and iodomethane (1.66 mL) were added to a mixture of the obtained residue and DMF (30 mL), and the mixture was stirred at 60 C for 30 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.65 g).

reactant | potassium hydroxide | 8 M, 22.1 mL | [OH-].[K+]
reactant | 5-bromo-6-(4-fluorophenyl)-2-isopropoxynicotinonitrile | 5.92 g | BrC=1C(=NC(=C(C#N)C1)OC(C)C)C1=CC=C(C=C1)F | C15H12BrFN2O
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | Methyl 5-bromo-6-(4-fluorophenyl)-2-isopropoxynicotinate | 3.65 g | BrC=1C(=NC(=C(C(=O)OC)C1)OC(C)C)C1=CC=C(C=C1)F | C16H15BrFNO3
